US04080207
3-[4-(2-Acetylhydrazino)phenyl]rhodanine (Reactant A-2)
Sodium carbonate (1.06g. 0.010 mole) was dissolved in water (100 ml). Bis(carboxymethyl)trithiocarbonate (4.52g, 0.02 mole) was added portionwise with vigorous stirring. When solution was complete, the reaction mixture was warmed to 80°-85° C and 1-acetyl-2-(4-aminophenyl)hydrazine (3.30 g, 0.020 moles) was added in one portion. The reaction mixture was heated with stirring for 11/2 hours, cooled to about 50°-60° C, then reheated at 80°-85° C. The product began to precipitate during reheating. After another 2 hours of heating the mixture was cooled to room temperature, chilled and filtered. The solid which was collected was washed with water and dried. Yield 2.95g (53%), mp 210°-213° C (dec).

reactant | Sodium carbonate | 0.010 mole, 1.06g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Bis(carboxymethyl)trithiocarbonate | 0.02 mole, 4.52g | C(=O)(O)CSC(SCC(=O)O)=S | C5H6O4S3
reactant | 1-acetyl-2-(4-aminophenyl)hydrazine | 0.020 moles, 3.30 g | C(C)(=O)NNC1=CC=C(C=C1)N | C8H11N3O
solvent | water | 100 ml | O | H2O
product | 3-[4-(2-Acetylhydrazino)phenyl]rhodanine | C(C)(=O)NNC1=CC=C(C=C1)N1C(SCC1=O)=S | C11H11N3O2S2
